US08754079B2
12.4 4-(4-Fluoro-2-(trans-4-(methylamino)cyclohexyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide
A mixture of 0.684 g tert-butyl-trans-4-(−2-(6-carbamoyl-5-methylthieno[2,3-d]pyrimidin-4-ylamino)-5-fluorophenoxy)cyclohexyl(methyl)carbamate in 5 ml 4 M HCl/dioxane and 5 ml MeOH was stirred at rt for 1.5 h. The reaction mixture was concentrated in vacuo. The crude was purified by chromatography to give the desired product.

reactant | tert-butyl-trans-4-(−2-(6-carbamoyl-5-methylthieno[2,3-d]pyrimidin-4-ylamino)-5-fluorophenoxy)cyclohexyl(methyl)carbamate | 0.684 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(N)=O)=O | C26H32FN5O4S
solvent | HCl dioxane | 4 M, 5 ml | Cl.O1CCOCC1
solvent | MeOH | 5 ml | CO | CH4O
product | 4-(4-Fluoro-2-(trans-4-(methylamino)cyclohexyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@@H]2CC[C@H](CC2)NC | C21H24FN5O2S
